### PR TITLE
[Merged by Bors] - feat(RingTheory): Jacobi-Zariski sequence

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by erdOne** [comment]
Unfortunately this PR is quite big but it is mainly boring calculation with little interesting result except for the last three lemmas.
If this is still hard to review I can split it arbitrarily in half.

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 1]
```diff
@@ -0,0 +1,567 @@
...
+# The Jacobi-Zariski exact sequence
+
+Given `R → S → T`, the Jacobi-Zariski exact sequence is
+```
+H¹(L_{T/R}) → H¹(L_{T/S}) → T ⊗[S] Ω[S/R] → Ω[T/R] → Ω[T/S] → 0
+```
+The maps are
+- `Algebra.H1Cotangnet.map`
+- `Algebra.H1Cotangnet.δ`
+- `Algebra.H1Cotangnet.δ`
```
Comment (jcommelin) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:21]:
```suggestion
- `Algebra.H1Cotangent.map`
- `Algebra.H1Cotangent.δ`
- `Algebra.H1Cotangent.δ`
```

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 2]
```diff
@@ -0,0 +1,567 @@
...
+noncomputable
+def H1Cotangent.δ :
+    Q.H1Cotangent →ₗ[T] T ⊗[S] Ω[S⁄R] := by
+  classical
+  haveI : SMulCommClass (Q.comp P).Ring S T := by infer_instance
+  letI H := @SnakeLemma.δ' T _
+    (T ⊗[S] P.Cotangent) (Q.comp P).Cotangent Q.Cotangent
+    (T ⊗[S] P.CotangentSpace) (Q.comp P).CotangentSpace Q.CotangentSpace
+    _ _ _ _ _ _ _ _ _ _ _ _
+  haveI := H
```
Comment (jcommelin) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:442]: Is this needed because you can't provide a term directly?

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean:21]: I think these 5 maps should be `map`, `δ`, `mapBaseChange`, `map`, `map` respectively? And maybe the lemma `exact_δ_map` should be named `exact_δ_mapBaseChange`?

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean]: The last time I checked, Lean gets confused and it times out horribly, but it seems fine now.

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 3]
```diff
@@ -0,0 +1,559 @@
...
+      rw [← coeff_zero i, ← h₂]
+      clear h₂ hi
+      have (x : (Q.comp P).Ring) : (Function.support fun a ↦ if a.1 = i then aeval P.val
+          (monomial a.2 (coeff (e.symm a) x)) else 0) ⊆ ((support x).map e).toSet := by
+        rw [← Set.compl_subset_compl]
+        intro j
+        obtain ⟨j, rfl⟩ := e.surjective j
+        simp_all
+      rw [Finset.sum_filter]
+      erw [← finsum_eq_sum_of_support_subset _ (this x)]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:194]:
```suggestion
      rw [Finset.sum_filter, ← finsum_eq_sum_of_support_subset _ (this x)]
```

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 4]
```diff
@@ -0,0 +1,559 @@
...
+          simp only [Finsupp.sumFinsuppAddEquivProdFinsupp_symm_apply, comp_vars,
+            Finsupp.coe_sumElim, Finsupp.coe_zero, Sum.elim_inl, Sum.elim_inr, Pi.zero_apply, e,
+            Set.mem_range, exists_false, not_false_eq_true, Finsupp.mapDomain_notin_range,
+            Finsupp.mapDomain_apply Sum.inr_injective, reduceCtorEq, ↓reduceIte]
+      simp only [AlgHom.toRingHom_eq_coe, monomial_zero', RingHom.coe_coe, algHom_C,
+          MvPolynomial.algebraMap_eq, this]
+      rw [monomial_mul, ← map_add, Prod.mk_add_mk, add_zero, zero_add, one_mul]
+    · apply Ideal.mul_mem_left
+      refine Ideal.mem_map_of_mem _ ?_
+      simp [ker, RingHom.mem_ker]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:184]:
```suggestion
      simp only [ker, AddEquiv.toEquiv_eq_coe, RingHom.mem_ker, map_sum, algebraMap_apply]
```

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 5]
```diff
@@ -0,0 +1,559 @@
...
+    refine ⟨?_, Submodule.subset_span ⟨.mk ⟨w, hw⟩, ?_⟩⟩
+    · simp only [ker, RingHom.mem_ker, algebraMap_apply, Hom.algebraMap_toAlgHom]
+      rw [← algebraMap_apply, hw, map_zero]
+    · rw [map_mk]
+
+/-- Given `R[X] → S` and `S[Y] → T`, the cotangent space of `R[X][Y] → T` is isomorphic
+to the direct product of the cotangent space of `S[Y] → T` and `R[X] → S` (base changed to `T`). -/
+noncomputable
+def CotangentSpace.compCotangentSpace (Q : Generators.{w} S T) (P : Generators.{w'} R S) :
+    (Q.comp P).CotangentSpace ≃ₗ[T] Q.CotangentSpace × (T ⊗[S] P.CotangentSpace) :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:268]: Maybe `CotangentSpace.compEquiv`?

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 6]
```diff
@@ -0,0 +1,559 @@
...
+        LinearMap.coe_inr, Basis.baseChange_apply, one_smul, LinearMap.baseChange_tmul,
+        toKaehler_cotangentSpaceBasis, add_left_inj, LinearMap.coe_inl]
+      rfl
+
+open Generators in
+/-- The connecting homomorphism in the Jacobi-Zariski sequence for a given family of generators. -/
+noncomputable
+def H1Cotangent.δ :
+    Q.H1Cotangent →ₗ[T] T ⊗[S] Ω[S⁄R] :=
+  SnakeLemma.δ'
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:435]: Could you add an explanation (maybe in the module docstring), that `Generators.H1Cotangent.δ` is obtained from the connecting hom of the snake lemma? Then you could explain that the exactness of the columns is by definition of `H1` and the exactness of the rows is shown in the first two sections of the file. Then finally in the third section, you show that `δ` does not depend on the choice of generators, so `H1Cotangent.δ` is defined to be `Generators.H1.Cotangent.δ` for the canonical generators.

**Review by chrisflav — COMMENTED** [review]
Great work!

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 7]
```diff
@@ -0,0 +1,559 @@
...
+/--
+Given `R[X] → S` and `S[Y] → T`, this is the lift of an element in `ker(S[Y] → T)`
+to `ker(R[X][Y] → S[Y] → T)`.
+-/
+noncomputable
+def kerCompPreimage (Q : Generators S T) (P : Generators R S) (x : Q.ker) :
+    (Q.comp P).ker := by
+  refine ⟨x.1.sum fun n r ↦ ?_, ?_⟩
+  · refine rename ?_ (P.σ r) * monomial ?_ 1
+    exacts [Sum.inr, n.mapDomain Sum.inl]
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean:56]: This is intentional to control the elaboration order so that the term has type `(Q.comp P).Ring` and not `MvPolynomial (Q.vars ⊕ P.vars) R`

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 8]
```diff
@@ -0,0 +1,559 @@
...
+      Basis.repr_self, Basis.prod_repr_inl, map_zero, Finsupp.coe_zero,
+      Pi.zero_apply, ne_eq, not_false_eq_true, Pi.single_eq_of_ne, Pi.single_apply,
+      Finsupp.single_apply, ite_smul, one_smul, zero_smul, Sum.inr.injEq,
+        RingHom.map_ite_one_zero, reduceCtorEq, ↓reduceIte]
+
+lemma CotangentSpace.compCotangentSpace_symm_zero
+    (Q : Generators.{w} S T) (P : Generators.{w'} R S) (x) :
+    (compCotangentSpace Q P).symm (0, x) =
+        (CotangentSpace.map (Q.toComp P)).liftBaseChange T x :=
+  DFunLike.congr_fun (compCotangentSpace_symm_inr Q P) x
```
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean:297]: It "Used 42728 heartbeats, which is less than the current maximum of 200000." on my local machine though.

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 9]
```diff
@@ -417,110 +370,130 @@ lemma H1Cotangent.δAux_ofComp (x : (Q.comp P).Ring) :
...
+The connecting homomorphism in the Jacobi-Zariski sequence for given presentations.
+Given representations `0 → I → R[X] → S → 0` and `0 → K → S[Y] → T → 0`,
+we may consider the induced representation `0 → J → R[X, Y] → T → 0`,
+and this map is obtained by applying snake lemma to the following diagram
+```
+    T ⊗[S] Ω[S/R]    →          Ω[T/R]        →   Ω[T/S]  → 0
+        ↑                         ↑                 ↑
+0 → T ⊗[S] (⨁ₓ S dx) → (⨁ₓ T dx) ⊕ (⨁ᵧ T dy) →  ⨁ᵧ T dy → 0
+        ↑                         ↑                 ↑
+    T ⊗[S] (I/I²)    →           J/J²         →    K/K²   → 0
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:394]: Thanks, that's wonderful

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 10]
```diff
@@ -0,0 +1,559 @@
...
+
+attribute [local instance 999999] Zero.toOfNat0 SemilinearMapClass.distribMulActionSemiHomClass
+  SemilinearEquivClass.instSemilinearMapClass TensorProduct.addZeroClass AddZeroClass.toZero
+
+namespace Generators
+
+/--
+Given `R[X] → S` and `S[Y] → T`, this is the lift of an element in `ker(S[Y] → T)`
+to `ker(R[X][Y] → S[Y] → T)`.
+-/
```
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean]: You are right, sorry for the confusion!

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean:56]: Could you in this case at least add a comment explaining that the spelling is intentional?
Independent of this PR, is there a reason why we need the `abbrev` `Generators.Ring` or is it purely for convenience?

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean]: I think this is not the `synthInstance` heartbeat count. What I did not realize though is that this just fails because `SMulCommClass.of_commMonoid` is not an instance. The lemmas that time out b/c of instance search come later.

[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean]: What do you think of moving
```
attribute [local instance 999999] Zero.toOfNat0 SemilinearMapClass.distribMulActionSemiHomClass
  SemilinearEquivClass.instSemilinearMapClass TensorProduct.addZeroClass AddZeroClass.toZero
```
to the lemmas that need this manual tweaking? We should fix this at some point, so then it is quicker to find where it is going wrong. My suggestion would be to move this into a section starting at L335 and ending at L389. And then add it to `H1Cotangent.δ_map` with `attribute [local instance] .... in`.
Maybe you can also add a comment saying "Note: these instances are needed to prevent instance search timeouts."

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 11]
```diff
@@ -0,0 +1,533 @@
...
+
+lemma map_toComp_ker :
+    P.ker.map (Q.toComp P).toAlgHom.toRingHom = RingHom.ker (Q.ofComp P).toAlgHom := by
+  letI : DecidableEq (Q.vars →₀ ℕ) := Classical.decEq _
+  apply le_antisymm
+  · rw [Ideal.map_le_iff_le_comap]
+    rintro x (hx : algebraMap P.Ring S x = 0)
+    have : ((Q.ofComp P).toAlgHom.comp (Q.toComp P).toAlgHom) = IsScalarTower.toAlgHom R _ _ := by
+      ext1; simp
+    simp only [comp_vars, AlgHom.toRingHom_eq_coe, Ideal.mem_comap, RingHom.coe_coe,
```
Comment (chrisflav) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:110]: This proof looks quite intimidating (its ~70 LOC), but I also don't see a good way to cut it in pieces :/ Maybe you see one?

**Review by chrisflav — COMMENTED** [review]
Sorry, I did not realize this was ready for review again.

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 12]
```diff
@@ -0,0 +1,533 @@
...
+  intro x
+  obtain ⟨⟨x, hx⟩, rfl⟩ := Extension.Cotangent.mk_surjective x
+  have : x ∈ Q.ker.restrictScalars R := hx
+  rw [← map_ofComp_ker Q P] at this
+  obtain ⟨x, hx', rfl⟩ := this
+  exact ⟨.mk ⟨x, hx'⟩, Extension.Cotangent.map_mk _ _⟩
+
+lemma map_toComp_ker :
+    P.ker.map (Q.toComp P).toAlgHom.toRingHom = RingHom.ker (Q.ofComp P).toAlgHom := by
+  letI : DecidableEq (Q.vars →₀ ℕ) := Classical.decEq _
```
Comment (acmepjz) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:104]: What's the reason of not writing `classical` directly?

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean:56]: We need an algebra instance of `P.Ring` on `S` (if `P : Generators R S`)

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean (hunk 11 above)
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean:110]: I managed to extract one useful lemma but everything else seems quite specific and will probably not be used elsewhere.

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean (hunk 12 above)
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean:104]: Because that gives the wrong decidable instance on `(Q.vars →₀ ℕ) × (P.vars →₀ ℕ)` (or some similar problem)

Comment (acmepjz) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean]: I see. Maybe one can prove that different `DecidableEq` instances should lead to the same definition...

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean]: Agreed, but couldn't we have one on `MvPolynomial P.vars R` instead? This of course has the same potential diamond problem as `P.Ring`, but it might be smoother for `rw` and also less work to maintain the correct `simp` set.

**Comment by chrisflav** [comment]
Thanks a lot!

maintainer merge

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Kaehler/JacobiZariski.lean]: `Generator.Ring` is already reducible so I don't think that's a big problem.

The reason why we need to massage the terms here is because `(Q.comp P).vars` is not reducibly defeq to `Q.vars ⊕ P.vars`. I'm thinking if we should make `comp` reducible to fix this.

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 13]
```diff
@@ -0,0 +1,467 @@
...
+    Function.Surjective (Extension.Cotangent.map (Q.ofComp P).toExtensionHom) := by
+  intro x
+  obtain ⟨⟨x, hx⟩, rfl⟩ := Extension.Cotangent.mk_surjective x
+  have : x ∈ Q.ker.restrictScalars R := hx
+  rw [← map_ofComp_ker Q P] at this
+  obtain ⟨x, hx', rfl⟩ := this
+  exact ⟨.mk ⟨x, hx'⟩, Extension.Cotangent.map_mk _ _⟩
+
+open Extension.Cotangent in
+lemma Cotangent.exact :
```
Comment (jcommelin) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:102]: Could you please add a docstring for this lemma? I think that would be helpful.

File: Mathlib/RingTheory/Kaehler/JacobiZariski.lean [hunk 14]
```diff
@@ -0,0 +1,467 @@
...
+variable {T : Type w} [CommRing T] [Algebra R T] [Algebra S T] [IsScalarTower R S T]
+
+variable (R S T)
+
+/-- The connecting homomorphism in the Jacobi-Zariski sequence. -/
+noncomputable
+def H1Cotangent.δ : H1Cotangent S T →ₗ[T] T ⊗[S] Ω[S⁄R] :=
+  Generators.H1Cotangent.δ (Generators.self S T) (Generators.self R S)
+
+lemma H1Cotangent.exact_map_δ : Function.Exact (map R S T T) (δ R S T) :=
```
Comment (jcommelin) [inline Mathlib/RingTheory/Kaehler/JacobiZariski.lean:460]: And this one.

**Review by jcommelin — COMMENTED** [review]
Thanks! I think some of the lemmas could benefit from a docstring that explains of which sequence they are proving exactness.

Could you please add those, and merge afterwards?

bors d+

**Comment by erdOne** [comment]
bors merge

**Comment by erdOne** [comment]
bors merge
